US05254720
The [PdCl2 /CuCl2 /CO] complex was freshly prepared as described above. To this catalyst (0.16 mmol) was added a solution of triphenylphosphine (0.13 g, 0.50 mmol), 4-isobutylstyrene (1.28 g, 8.0 mmol), H2O (1 mL) and THF (15 mL). The mixture was transferred to a 100-mL Hastelloy B autoclave via syringe and the autoclave was then purged with CO (3×500 psig). The reactor was pressurized with CO (500 psig) and was agitated at 50° C. overnight (18 h). GC analysis of an aliquote found that the reaction mixture contained 96% of ibuprofen. The reactor was cooled to room temperature and CO pressure was released. Ibuprofen can be isolated as the following typical work-up procedure. Distilled H2O was added and the product was extracted with hexane. The combined hexane extracts was dried (MgSO4) and was then concentrated by rotary evaporation. The resulting residue was taken with 1N NaOH and was extracted with ether. The aqueous solution was acidified with concentrated HCl. Extraction with ether, drying (Na2SO4), and evaporation afforded 2-(4-isobutylphenyl)propionic acid (ibuprofen) (1.56 g, 95% yield) as a white solid.

reactant | triphenylphosphine | 0.50 mmol, 0.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-isobutylstyrene | 8.0 mmol, 1.28 g | C(C(C)C)C1=CC=C(C=C)C=C1 | C12H16
reactant | H2O | 1 mL | O | H2O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | Ibuprofen | OC(=O)C(C)C1=CC=C(CC(C)C)C=C1 | C13H18O2
